US04327093
To a solution of 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylic acid.trifluoroacetate (syn isomer)(1.0 g) in methanol (20 ml) was added conc.hydrochloric acid (0.62 ml) followed by stirring for 2 hours at ambient temperature. The reaction mixture was evaporated and the residue was pulverized in ethyl acetate, collected by filtration, washed with ethyl acetate and diethyl ether and then dried to give 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylic acid.dihydrochloride (syn isomer).

reactant | 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylic acid | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(=O)N2CCN(CC2)C)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C21H25N7O8S2
reactant | trifluoroacetate | 1.0 g | FC(C(=O)[O-])(F)F
reactant | hydrochloric acid | 0.62 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylic acid.dihydrochloride | Cl.Cl.CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(=O)N2CCN(CC2)C)C(=O)O)C1=O)C=1N=C(SC1)N | InChI=1S/C20H25N7O7S2.2ClH/c1-25-3-5-26(6-4-25)20(32)34-7-10-8-35-17-13(16(29)27(17)14(10)18(30)31)23-15(28)12(24-33-2)11-9-36-19(21)22-11;;/h9,13,17H,3-8H2,1-2H3,(H2,21,22)(H,23,28)(H,30,31);2*1H/t13?,17-;;/m1../s1
